US04298748
The procedure described in Example 5 is followed except that 288 parts of n-octanoic acid and 132 parts of ethylenediamine are employed. 319 parts of 2-n-heptylimidazoline (95% of theory, based on octanoic acid employed) of boiling point 133° C./5.32 mbar are obtained.

reactant | n-octanoic acid | C(CCCCCCC)(=O)O | C8H16O2
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 2-n-heptylimidazoline | 95% | C(CCCCCC)C=1NCCN1 | C10H20N2
